US09422331B2
Phosphoryl chloride (0.16 ml, 1.72 mmol) was added to a solution of ((2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester (0.5 g, 1.72 mmol) and 4-acetyl-benzoic acid (0.25 g, 1.54 mmol) in pyridine (15 ml) at 0° C., stirring continued for 2 h. The reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (2×60 mL). The organic layers were combined, washed with 10% aqueous citric acid (1×15 mL), water (1×15 mL) and a saturated aqueous solution of sodium hydrogen carbonate (1×15 mL) and brine. The organic extract was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography over silica gel gradient eluted with 10 to 60% v/v ethyl acetate hexanes to give [(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester (0.45 g, 60%).

reactant | Phosphoryl chloride | 1.72 mmol, 0.16 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ((2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | 1.72 mmol, 0.5 g | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N[C@H]1C)C=CC=C2)=O)=O | C15H21N3O3
reactant | 4-acetyl-benzoic acid | 1.54 mmol, 0.25 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | [(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | 0.45 g, 60% | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)=O)=O | C24H27N3O5
